US04057625
N-Vinylpyrrolidone/vinyl laurate copolymer (1:3 molar ratio)
To a solution of 27.75 gm (0.25 mol) of N-vinylpyrrolidone and 169.5 gm (0.75 mol) of vinyl laurate in 460 gm of methanol were added 6 gm of azobisisobutyronitrile as catalyst. The resulting reaction mixture was agitated for 6 hours at 60° C, during which time the copolymer precipitated. After completion of the reaction, the methanol was distilled off and the polymer was washed a few times with fresh methanol. The yield was 176.5 gm (90% of theory) of N-vinylpyrrolidone/vinyl laurate copolymer (1:3 molar ratio).

reactant | N-vinylpyrrolidone | 0.25 mol, 27.75 gm | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl laurate | 0.75 mol, 169.5 gm | C(CCCCCCCCCCC)(=O)OC=C | C14H26O2
solvent | methanol | 460 gm | CO | CH4O
catalyst | azobisisobutyronitrile | 6 gm | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | N-Vinylpyrrolidone vinyl laurate | C(=C)N1C(CCC1)=O.C(CCCCCCCCCCC)(=O)OC=C | InChI=1S/C14H26O2.C6H9NO/c1-3-5-6-7-8-9-10-11-12-13-14(15)16-4-2;1-2-7-5-3-4-6(7)8/h4H,2-3,5-13H2,1H3;2H,1,3-5H2
